US07589232B2
Step a) Formation of methyl 5-{[(3-cyclopentylpropanoyl)(4-dec-1-ynylbenzyl)amino]-methyl}-2-(2-methoxy-2-oxoethoxy)benzoate
The title compound was prepared following the procedure G using the hydrochloride salt of methyl 5-{[(4-dec-1-ynylbenzyl)amino]methyl}-2-(2-methoxy-2-oxoethoxy)benzoate and 3-cyclopentylpropanoyl chloride (purification by flash chromatography on SiO2, chloroform/MeOH 99:1) as a colorless oil (70%). M+ (ESI): 604.0. HPLC, Rt: 6.2 min purity: 100%). 1H NMR (CDCl3) δ: 7.61 (m, 1H), 7.41-7.05 (m, 5H), 6.85 (m, 1H), 4.75 (s, 1H), 4.72 (s, 1H), 4.56 (m, 2H), 4.42 (m, 2H), 3.92 (s, 1.5H), 3.90 (s, 1.5H), 3.82 (s, 1.5H), 3.81 (s, 1.5H), 2.41 (m, 4H), 1.74-1.09 (m, 23H), 0.90 (t, J=6.6 Hz, 3H).

reactant | methyl 5-{[(4-dec-1-ynylbenzyl)amino]methyl}-2-(2-methoxy-2-oxoethoxy)benzoate | C(#CCCCCCCCC)C1=CC=C(CNCC=2C=CC(=C(C(=O)OC)C2)OCC(=O)OC)C=C1 | C29H37NO5
reactant | 3-cyclopentylpropanoyl chloride | C1(CCCC1)CCC(=O)Cl | C8H13ClO
product | methyl 5-{[(3-cyclopentylpropanoyl)(4-dec-1-ynylbenzyl)amino]-methyl}-2-(2-methoxy-2-oxoethoxy)benzoate | C1(CCCC1)CCC(=O)N(CC1=CC=C(C=C1)C#CCCCCCCCC)CC=1C=CC(=C(C(=O)OC)C1)OCC(=O)OC | C37H49NO6
